US07273868B2
To a solution of diisopropylamine 11.93 g in tetrahydrofuran 350 ml is dropped a 1.6M solution of n-butyl lithium in hexane 73.7 ml over a period of 20 minutes on dry ice-acetone bath, and the mixture is stirred for 30 minutes. Thereto is added 4,6-dichloro-2-methylthiopyrimidine 10.00 g in tetrahydrofuran 50 ml over a period of 1 hour on a dry ice-acetone bath, followed by further one hour agitation. The reaction mixture is poured into dry ice and the mixture is stirred for 1.5 hours at room temperature. The reaction mixture is made acidic with 10% hydrochloric acid, diluted with water and extracted with ethyl acetate. The organic layer is washed, dried and condensed in vacuo. The resulting solid is triturated with hexane to give 4,6-dichloro-5-carboxy-2-methylthiopyrimidine as a brown crystalline powder, 10.42 g. mp 151-158° C. (decomposition)

reactant | diisopropylamine | 11.93 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4,6-dichloro-2-methylthiopyrimidine | 10.00 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | hexane | 73.7 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4,6-dichloro-5-carboxy-2-methylthiopyrimidine | ClC1=NC(=NC(=C1C(=O)O)Cl)SC | C6H4Cl2N2O2S
